US06353025B1
To a solution of 4-aminophenethyl alcohol (25 g) in N,N-dimethylformamide (500 ml) were added potassium carbonate (30 g) and ethyl bromoacetate (24 ml), and the mixture was stirred for 16 hours at room temperature. Diethylamine (38 ml) was added to the reaction mixture, and the resulting mixture was stirred for 1 hour. The insoluble material was filtered off and the filtrate was concentrated in vacuo. To the residue was added diethyl ether, and the resulting insoluble material was filtered off. The filtrate was washed with 10% aqueous citric acid solution, a saturated aqueous sodium bicarbonate solution and brine subsequently, and dried over anhydrous magnesium sulfate. Removal of the solvent in vacuo gave ethyl N-[4-(2-hydroxyethyl)phenyl]aminoacetate (35.5 g).

reactant | 4-aminophenethyl alcohol | 25 g | NC1=CC=C(CCO)C=C1 | C8H11NO
reactant | potassium carbonate | 30 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl bromoacetate | 24 ml | BrCC(=O)OCC | C4H7BrO2
reactant | Diethylamine | 38 ml | C(C)NCC | C4H11N
solvent | N,N-dimethylformamide | 500 ml | CN(C=O)C | C3H7NO
product | ethyl N-[4-(2-hydroxyethyl)phenyl]aminoacetate | 35.5 g | OCCC1=CC=C(C=C1)NCC(=O)OCC | C12H17NO3
